US08974674B2
First, a sodium tungstate aqueous solution having a pH of 9 or greater (sample 1) was prepared. A sodium polytungstate aqueous solution (sample 2) was prepared by adding hydrochloric acid to sample 1 for adjustment to a pH of 6. A sodium polytungstate aqueous solution (sample 3) was prepared by adding sulfuric acid to sample 1 for adjustment to a pH of 6. Further, WO3 concentration (hereinafter, the “WO3 concentration” will be referred to as “W concentration” unless otherwise stated) of each of the sodium polytungstate aqueous solutions of sample 2 and sample 3 having been through the pH adjustments was adjusted to 70 g/L (70 g of WO3 was contained per liter of the sodium polytungstate aqueous solution).

reactant | sodium tungstate | [O-][W](=O)(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | sodium polytungstate | [O-][W](=O)(=O)[O-].[O-][W](=O)(=O)[O-].[O-][W](=O)(=O)[O-].O=[W](=O)=O.O=[W](=O)=O.O=[W](=O)=O.O=[W](=O)=O.O=[W](=O)=O.O=[W](=O)=O.O=[W](=O)=O.O=[W](=O)=O.O=[W](=O)=O.[Na+].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/6Na.39O.12W/q6*+1;;;;;;;;;;;;;;;;;;;;;;;;;;;;;;;;;;6*-1;;;;;;;;;;;;
